US05922720
11. 2-{[[4-[3-(4-Phenylpiperazin-1-yl)propylthio]-3-methoxy-2-pyridinyl]-methyl]thio}-1H-benzimidazole trihydrochloride
According to the procedure indicated in Examples 1), 3) and 6), reaction of 2-{[[4-(3-chloropropylthio)-3-methoxy-2-pyridinyl]methyl]thio}-1H-benzimidazole with N-phenylpiperazine and subsequent conversion into the hydrochloride in acetone gives the title compound; colorless crystals; m.p. 105° C., dec.; yield 73%.

reactant | 2-{[[4-(3-chloropropylthio)-3-methoxy-2-pyridinyl]methyl]thio}-1H-benzimidazole | ClCCCSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)OC | C17H18ClN3OS2
reactant | N-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | hydrochloride | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 2-{[[4-[3-(4-Phenylpiperazin-1-yl)propylthio]-3-methoxy-2-pyridinyl]-methyl]thio}-1H-benzimidazole trihydrochloride | yield 73% | Cl.Cl.Cl.C1(=CC=CC=C1)N1CCN(CC1)CCCSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)OC | InChI=1S/C27H31N5OS2.3ClH/c1-33-26-24(20-35-27-29-22-10-5-6-11-23(22)30-27)28-13-12-25(26)34-19-7-14-31-15-17-32(18-16-31)21-8-3-2-4-9-21;;;/h2-6,8-13H,7,14-20H2,1H3,(H,29,30);3*1H
